US07067537B2
ii) Production of 2-bromo-3-methyl-1-(4-methylpyridin-3-yl)butan-1-one hydrobromate
By the reaction in the same manner as in Example 53-ii) using 3-methyl-1-(4-methylpyridin-3-yl)butan-1-one (3.10 g) and bromine (2.68 g), the title compound (3.69 g) was obtained as a pale-yellow powder.

reactant | 3-methyl-1-(4-methylpyridin-3-yl)butan-1-one | 3.10 g | CC(CC(=O)C=1C=NC=CC1C)C | C11H15NO
reactant | bromine | 2.68 g | BrBr | Br2
product | 2-bromo-3-methyl-1-(4-methylpyridin-3-yl)butan-1-one | 3.69 g | BrC(C(=O)C=1C=NC=CC1C)C(C)C | C11H14BrNO
